US08207344B2
5: 2-Fluoro-4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenol
4-(3-Fluoro-4-hydroxy-phenyl)-1-methanesulfonyl-piperidin-4-ol (726.00 mg, 2.51 mmol) is dissolved in 1,4-dioxane (10.36 g, 10.04 mL, 117.57 mmol). p-Toluenesulfonic acid (43.65 mg, 250.93 μmol) is added and the mixture is heated at 60° C. Solid sodium carbonate is added and the reaction is concentrated. The residue is partitioned between water and ethyl acetate, the pH adjusted to 7 with 1 M hydrogen chloride and extracted with ethyl acetate. The organic layer is washed with brine, dried over magnesium sulfate, filtered, and concentrated to dryness to provide 714 mg of the title compound as a white solid. MS (m/z) 272 (M+1).

reactant | 4-(3-Fluoro-4-hydroxy-phenyl)-1-methanesulfonyl-piperidin-4-ol | 2.51 mmol, 726.00 mg | FC=1C=C(C=CC1O)C1(CCN(CC1)S(=O)(=O)C)O | C12H16FNO4S
reactant | 1,4-dioxane | 117.57 mmol, 10.04 mL, 10.36 g | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | p-Toluenesulfonic acid | 250.93 μmol, 43.65 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-Fluoro-4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenol | 714 mg | FC1=C(C=CC(=C1)C=1CCN(CC1)S(=O)(=O)C)O | C12H14FNO3S
